US05698016
Preparation of Dioleyl maleate
A mixture of maleic anhydride (88.25 g), oleyl alcohol (483.28 g), p-toluenesulfonic acid monohydrate (8.56 g), and toluene (650 mL) was refluxed under nitrogen. Water was separated from the distillate in a Barrett distilling receiver. When the theoretical amount of water (17 g) was collected, the heating was stopped and the toluene removed in vacuo on a rotary evaporator. The product was a brown oil (532 g) and was used in Example 4 without further purification.

reactant | maleic anhydride | 88.25 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | oleyl alcohol | 483.28 g | C(CCCCCCC\C=C/CCCCCCCC)O | C18H36O
reactant | p-toluenesulfonic acid monohydrate | 8.56 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 650 mL | C1(=CC=CC=C1)C | C7H8
product | Dioleyl maleate | C(\C=C/C(=O)OCCCCCCCC\C=C/CCCCCCCC)(=O)OCCCCCCCC\C=C/CCCCCCCC | C40H72O4
